US09034861B2
To a solution of 2-fluoro-4-iodoaniline (933 mg, 3.94 mmol) in THF (10 mL) was drop wise added LHMDS solution (5.1 mL, 5.1 mmol, 1 M in THF) at −78° C. After stirring at −78° C. for 30 min, a solution of 2-nitro-3,5-difluorphenylallyl ether (934 mg, 4.3 mmol) in THF (5 mL) was added drop wise to into the reaction mixture, which was slowly warmed to room temperature and stirred for 16 h. After completion (as indicated by TLC), the reaction mixture was quenched with water and extracted with ether. The organic layer was dried over anhydrous Na2SO4 and concentrated. The residue obtained was re-crystallized in hexane to yield N-(3-(allyloxy)-5-fluoro-2-nitrophenyl)-2-fluoro-4-iodobenzenamine (1.56 g). 1H-NMR (400 MHz, CDCl3): δ 4.62 (2H, d, J=4.8), 5.33-5.36 (1H, d, J=10), 5.48 (1H, d, J=17.2), 5.98-6.02 (1H, m), 6.22 (1H, dd, J=2.4, 9.6), 6.36 (1H, dd, J=2, 10.4), 7.04-7.08 (1H, m), 7.45-7.52 (2H, m).

reactant | 2-fluoro-4-iodoaniline | 3.94 mmol, 933 mg | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | LHMDS | 5.1 mmol, 1 M, 5.1 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2-nitro-3,5-difluorphenylallyl ether | 4.3 mmol, 934 mg | [N+](=O)([O-])C1=C(C=C(C=C1F)F)C=CCOCC=CC1=C(C(=CC(=C1)F)F)[N+](=O)[O-] | C18H12F4N2O5
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(3-(allyloxy)-5-fluoro-2-nitrophenyl)-2-fluoro-4-iodobenzenamine | 1.56 g | C(C=C)OC=1C(=C(C=C(C1)F)NC1=C(C=C(C=C1)I)F)[N+](=O)[O-] | C15H11F2IN2O3
